US06686384B2
2-(2,6-Dichlorophenylamino)-4,6-difluorobenzimidazole hydrochloride
2-(2,6-Dichlorophenylamino)-4,5-difluorobenzimidazole hydrochloride was obtained analogously to the procedure described in example 9b from 2 g of 1-(2-amino-4,6-difluorophenyl)-3-(2,6-dichlorophenyl)thiourea and 6.4 g of methyl iodide. Crystalline solid, m.p.: 232-234° C.

reactant | 1-(2-amino-4,6-difluorophenyl)-3-(2,6-dichlorophenyl)thiourea | 2 g | NC1=C(C(=CC(=C1)F)F)NC(=S)NC1=C(C=CC=C1Cl)Cl | C13H9Cl2F2N3S
reactant | methyl iodide | 6.4 g | CI | CH3I
product | 2-(2,6-Dichlorophenylamino)-4,6-difluorobenzimidazole hydrochloride | Cl.ClC1=C(C(=CC=C1)Cl)NC=1NC2=C(N1)C=C(C=C2F)F | InChI=1S/C13H7Cl2F2N3.ClH/c14-7-2-1-3-8(15)11(7)19-13-18-10-5-6(16)4-9(17)12(10)20-13;/h1-5H,(H2,18,19,20);1H
